US07473797B2
5-(4-Acetyl-phenyl)-pent-2-en-4-ynoic acid ethyl ester (Table 2, entry 11):
The general procedure was used to convert 1-(4-Ethynyl-phenyl)-ethanone and (Z)-ethyl-3-iodoacrylate to the title product. Purification by flash chromatography (440 mg, 20% ethyl acetate in hexane as the eluent) gave the analytically pure product as a light yellow oil (92% yield). 1H NMR (400 MHz, CDCl3) δ 7.93-7.90 (d, J=8.5, 2H), 7.60-7.58 (d, J=8.5, 2H), 6.38-6.35 (d, J=11.4, 1H), 6.20-6.18 (d, J=11.4, 1H), 4.28-4.23 (q, J=7.1, 2H), 2.58 (s, 3H), 1.34-1.30 (t, J=7.1, 3H). 13C NMR (100MHz, CDCl3) δ 197.09, 164.54, 136.87, 132.09, 129.43, 128.24, 127.39, 122.22. 99.65, 89.11, 60.53, 26.59, 14.29. Anal. Calcd. for C15H14O3: C, 74.36; H, 5.82; Found C, 74.31; H, 5.97.

reactant | 1-(4-Ethynyl-phenyl)-ethanone | C(#C)C1=CC=C(C=C1)C(C)=O | C10H8O
reactant | (Z)-ethyl-3-iodoacrylate | C(C)OC(\C=C/I)=O | C5H7IO2
product | 5-(4-Acetyl-phenyl)-pent-2-en-4-ynoic acid ethyl ester | C(C)OC(C=CC#CC1=CC=C(C=C1)C(C)=O)=O | C15H14O3
